.title KiCad schematic
.save all
.probe alli
.probe p(VBT1)
.probe p(C82)
.probe p(C16)
.probe p(L2)
.probe p(R30)
.probe p(C83)
.probe p(R29)
.probe p(C49)
.probe p(R14)
.probe p(R15)
.probe p(C54)
.probe p(R22)
.probe p(C43)
.probe p(C44)
.probe p(C45)
.probe p(C42)
.probe p(C22)
.probe p(C50)
.probe p(R5)
.probe p(R6)
.probe p(C20)
.probe p(R10)
.probe p(C21)
.probe p(R4)
.probe p(R7)
.probe p(C51)
.probe p(L3)
.probe p(C48)
.probe p(C47)
.probe p(C2)
.probe p(C3)
.probe p(C6)
.probe p(C5)
.probe p(C1)
.probe p(L1)
.probe p(C4)
.probe p(R20)
.probe p(R19)
.probe p(R24)
.probe p(R9)
.probe p(R11)
.probe p(R12)
.probe p(R13)
.probe p(C57)
.probe p(C55)
.probe p(R28)
.probe p(R27)
.probe p(L4)
.probe p(C56)
.probe p(R21)
.probe p(R3)
.probe p(R23)
.probe p(C19)
.probe p(R18)
.probe p(C65)
.probe p(C64)
.probe p(C66)
.probe p(C70)
.probe p(C67)
.probe p(C69)
.probe p(C71)
.probe p(C68)
.probe p(R2)
.probe p(R25)
.probe p(R1)
.probe p(C38)
.probe p(C53)
.probe p(C52)
.probe p(R16)
.probe p(R17)
.probe p(C9)
.probe p(C15)
.probe p(C12)
.probe p(C8)
.probe p(C7)
.probe p(C13)
.probe p(C10)
.probe p(C11)
.probe p(C14)
.probe p(C30)
.probe p(C26)
.probe p(C27)
.probe p(C46)
.probe p(C28)
.probe p(C25)
.probe p(C24)
.probe p(C29)
.probe p(C37)
.probe p(C31)
.probe p(C33)
.probe p(C35)
.probe p(C32)
.probe p(C40)
.probe p(C39)
.probe p(C41)
.probe p(C34)
.probe p(C17)
.probe p(C36)
.probe p(C23)
.probe p(R8)
.probe p(C18)
.probe p(C61)
.probe p(C58)
.probe p(C59)
.probe p(C60)
.probe p(C73)
.probe p(C74)
.probe p(C72)
.probe p(C76)
.probe p(C75)
.probe p(C77)
.probe p(C79)
.probe p(C78)
.probe p(C62)
.probe p(R26)
.probe p(C81)
.probe p(C80)
.probe p(C63)
U15 __U15
VBT1 Net-_BT1-+_ GND DC CR1220 
J3 __J3
C82 Net-_U23-PDT_ GND 0.33u
C16 Net-_C16-Pad1_ /FM_ANT 33p
L2 Net-_C16-Pad1_ GND 100n
J2 __J2
D2 __D2
U23 __U23
R30 /+3V3_SYS /BTN_KILL 100k
C83 Net-_U23-ONT_ GND 0.1u
SW1 __SW1
R29 /+3V3_SYS /BTN_INT 10k
C49 Net-_U19-SS/TR_ GND 3.3n
R14 Net-_U19-FB_ /+3V3_SYS 100k
R15 Net-_U19-FB_ GND 32.4k
C54 GND Net-_U21-SS_ 10n
U21 __U21
R22 /CHG_INT /+3V3_SYS 10k
C43 Net-_J1-TX1+_ /Power&Battery/TYPEC_TX1_P 0.1u
C44 Net-_J1-TX2-_ /Power&Battery/TYPEC_TX2_N 0.1u
C45 Net-_J1-TX2+_ /Power&Battery/TYPEC_TX2_P 0.1u
C42 Net-_J1-TX1-_ /Power&Battery/TYPEC_TX1_N 0.1u
U1 __U1
C22 Net-_U13-C+_ Net-_U13-C-_ 4.7u
C50 SYS GND 100n
R5 Net-_U13-FB-_ GND 10k
R6 /+5V_AMP Net-_U13-FB-_ 30.9k
C20 GND Net-_U13-CP_ 4.7u
R10 Net-_U13-PGOOD_ /Power&Battery/HP_GOOD_OUT 10k
C21 GND SYS 4.7u
R4 Net-_U13-FB+_ GND 10k
R7 /-5V_AMP Net-_U13-FB+_ 31.6k
U13 __U13
C51 /+3V3_SYS GND 100n
U19 __U19
L3 Net-_L3-Pad1_ /+3V3_SYS 2.2u
C48 /+3V3_SYS GND 22u
C47 SYS GND 22u
C2 Net-_U2-PP_CABLE_ GND 22u
C3 SYS GND 22u
C6 /Power&Battery/BTST_CAP SW 47n
C5 /Power&Battery/REGN GND 4.7u
C1 GND /Power&Battery/VBUS_PD 1u
L1 SW SYS 1u
C4 GND BAT 10u
R20 Net-_U2-ADCIN2_ Net-_U14-VCC_ 100k
R19 Net-_U14-VCC_ GND 100k
D1 Net-_D1-K_ Net-_D1-A_ LED
U4 __U4
R24 GND Net-_U4-ILIM_ 130
R9 Net-_D1-A_ SYS R
U14 __U14
U3 __U3
TH1 __TH1
R11 /Power&Battery/REGN Net-_U4-TS_ 4.42k
R12 Net-_U4-TS_ GND 23.7k
R13 Net-_U3-CAD_SNK_DCI_DAT_ GND 10k
J1 __J1
C57 +5V_INPUT_ GND 22u
C55 +5V_INPUT_ GND 22u
R28 +5V_INPUT_ Net-_U21-FB_ 316k
R27 Net-_U21-FB_ GND 100k
L4 Net-_L4-Pad1_ SYS 1u
C56 +5V_INPUT_ GND 0.1u
R21 /BAT_ALRT /+3V3_SYS 10k
R3 /Power&Battery/BATTERY_NEG GND 10m
R23 Net-_U5-THRM_ GND 10k
U5 __U5
C19 Net-_U5-REG_ GND 0.47u
U2 __U2
R18 Net-_U14-VCC_ Net-_U2-ADCIN1_ 100k
C65 /DP_LANE0_N Net-_U3-DP0N_ 100n
C64 /DP_LANE0_P Net-_U3-DP0P_ 100n
C66 /DP_LANE1_P Net-_U3-DP1P_ 100n
C70 /DP_LANE3_P Net-_U3-DP3P_ 100n
C67 /DP_LANE1_N Net-_U3-DP1N_ 100n
C69 /DP_LANE2_P Net-_U3-DP2N_ 100n
C71 /DP_LANE3_N Net-_U3-DP3N_ 100n
C68 /DP_LANE2_N Net-_U3-DP2P_ 100n
R2 Net-_U14-VCC_ /I2C_SCL 4.7k
R25 /PD_IRQ /+3V3_SYS 10k
R1 Net-_U14-VCC_ /I2C_SDA 4.7k
C38 GND Net-_U14-VCC_ 0.1u
C53 Net-_U2-LDO_1V8_ GND 2.2u
C52 GND Net-_U2-HRESET_ 100n
R16 /+3V3_SYS Net-_U2-HRESET_ 100k
R17 Net-_U2-ADCIN1_ GND 100k
C9 /Audio_Engine/3V3_ANA GND 1u
C15 Net-_U7-FILT+_ GND 10u
C12 Net-_U7--VA_ GND 2.2u
U8 __U8
U9 __U9
C8 /Audio_Engine/1V8_DIG GND 1u
C7 SYS GND 1u
U6 __U6
U7 __U7
C13 Net-_U7-FLYN_VA_ Net-_U7-FLYP_VA_ 2.2u
U10 __U10
C10 Net-_U6-FLYN_VA_ Net-_U6-FLYP_VA_ 2.2u
C11 Net-_U6--VA_ GND 2.2u
C14 Net-_U6-FILT+_ GND 10u
C30 GND Net-_IC1-AVCC_ 0.1u
C26 Net-_IC1-DVDD_ GND 0.1u
C27 GND Net-_IC1-DVDD_ 10u
Y1 __Y1
C46 Net-_IC1-DVDD_ GND 1u
C28 GND Net-_IC1-AVCC_ 0.1u
IC1 __IC1
C25 Net-_U11-ROUT/DOUT_ Net-_U12-+IN_B_ 2.2u
U11 __U11
C24 Net-_U12-+IN_A_ Net-_U11-LOUT/DFS_ 2.2u
C29 GND Net-_IC1-AVCC_ 0.1u
C37 GND Net-_IC1-IN_M2_ 2.2u
C31 GND Net-_IC1-AVCC_ 0.1u
C33 GND Net-_IC1-VREF_R_ 10u
C35 GND Net-_IC1-IN_M1_ 2.2u
C32 GND Net-_IC1-VREF_L_ 10u
U16 __U16
U17 __U17
C40 /+5V_AMP GND 1u
C39 /+5V_AMP GND 1u
C41 Net-_IC1-AVCC_ GND 1u
C34 Net-_U12--IN_A_ Net-_IC1-IN_P1_ 2.2u
C17 /-5V_AMP GND 0.1u
C36 Net-_U12--IN_B_ Net-_IC1-IN_P2_ 2.2u
U12 __U12
C23 Net-_IC1-AVCC_ GND 0.1u
R8 Net-_U11-*RST_ Net-_IC1-AVCC_ 10k
C18 GND /+5V_AMP 0.1u
U20 __U20
C61 GND /Video_Engine/+1V8_VID 1u
C58 /+3V3_SYS GND 1u
C59 GND /+3V3_SYS 1u
C60 GND /Video_Engine/+1V2_VID 1u
U22 __U22
U18 __U18
C73 Net-_U18-D0N/B10_RX1N_ /DP_LANE0_N 100n
C74 Net-_U18-D1P/A11_RX2P_ /DP_LANE1_P 100n
C72 Net-_U18-D0P/B11_RX1P_ /DP_LANE0_P 100n
C76 Net-_U18-D2P/A3_TX1N_ /DP_LANE2_P 100n
C75 Net-_U18-D1N/A10_RX2N_ /DP_LANE1_N 100n
C77 Net-_U18-D2N/A2_TX1P_ /DP_LANE2_N 100n
C79 Net-_U18-D3N/B2_TX2P_ /DP_LANE3_N 100n
C78 Net-_U18-D3P/B3_TX2N_ /DP_LANE3_P 100n
C62 Net-_U18-XTALI_ GND 22p
Y2 __Y2
R26 GND Net-_U18-REXT_ 2k
C81 /DP_AUX_N Net-_U18-AUXP_ 100n
C80 /DP_AUX_P Net-_U18-AUXN_ 100n
C63 Net-_U18-XTALO_ GND 22p
.end
